US03933811
2-Morpholino-2-(2-pyridyl)thioacetamide (1.0 g., 0.0042 mole) is dissolved with heating in 30 ml. of methanol. To the warm solution is added 1.0 g. (0.012 mole) of morpholine and 1.84 g. (0.022 mole) of 37% aqueous formaldehyde solution. The resulting solution is refluxed three hours and then stirred for 17 hours. The solvent is evaporated and the residue is recrystallized from methanol/ether to give 2-morpholino-N-morpholinomethyl-2-(2-pyridyl)thioacetamide, m.p. 144°-147°C. (dec.).

reactant | 2-Morpholino-2-(2-pyridyl)thioacetamide | 0.0042 mole, 1.0 g | O1CCN(CC1)C(C(=S)N)C1=NC=CC=C1 | C11H15N3OS
reactant | morpholine | 0.012 mole | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 0.022 mole | C=O | CH2O
solvent | methanol | CO | CH4O
product | 2-morpholino-N-morpholinomethyl-2-(2-pyridyl)thioacetamide | O1CCN(CC1)C(C(=S)NCN1CCOCC1)C1=NC=CC=C1 | C16H24N4O2S
